US04943574
To a stirred and cooled (0° C.) mixture of 3.9 parts of 4-(1H-imidazol-1-ylmethyl)-N2 -(phenylmethyl)-1,2-benzenediamine and 9.6 parts of concentrated hydrochloric acid was added dropwise a solution of 1.86 parts of sodium nitrite in 8 parts of water. Upon complete addition, stirring was continued for 10-15 minutes at this low temperature. The reaction mixture was allowed to reach room temperature and poured into ice water. The whole was extracted with dichloromethane. The acid aqueous layer was treated with a concentrated ammonium hydroxide solution while cooling and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by filtration over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was further purified by column chromatography over silica gel using a mixture of ethyl acetate, methanol and methanol, saturated with ammonia (95:2.5:2.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The product was filtered off, washed with 2,2'-oxybispropane and dried in vacuo at 50° C., yielding 1.6 parts (40.9%) of 6-(1H-imidazol-1-ylmethyl)-1-(phenylmethyl)-1H-benzotriazole; mp. 85.4° C. (compound 80).

reactant | 4-(1H-imidazol-1-ylmethyl)-N2 -(phenylmethyl)-1,2-benzenediamine | N1(C=NC=C1)CC=1C=C(C(=CC1)N)NCC1=CC=CC=C1 | C17H18N4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 6-(1H-imidazol-1-ylmethyl)-1-(phenylmethyl)-1H-benzotriazole | 40.9% | N1(C=NC=C1)CC=1C=CC2=C(N(N=N2)CC2=CC=CC=C2)C1 | C17H15N5
